Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
LLE weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ year old gentleman with HTN, HLD, DM II 
(recently diagnosed), trigeminal neuralgia, severe 
osteoarthritis s/p bilateral hip replacement, per report "spot" 
on prior brain MRI about one year ago, at least several weeks of 
LLE weakness presenting after MRI spine read as lesions raising 
concern for demyelination. 

Patient reports that as part of his work-up for trigeminal 
neuralgia, he had an MRI brain at ___. Diagnosed with right 
sided V2/V3 trigeminal neuralgia in ___. Had MRI at ___ 
in ___ and ___ with T2 hyperintensities in the periventricular 
region concerning for demyelination and involving the trigeminal 
nerve. 

On review of ___ medical record, it seems he also had an 
MRI C spine in ___ which showed some lesions 
possibly concerning for demyelination. He does not recall this 
study and did not have additional work-up thereafter. 

Patient came in to the ___ ED on ___ with report of LLE 
weakness, possibly worsening over the 2 days prior to 
presentation after a fall on ___. Patient then in 
retrospect mentioned that he had been prescribed naproxen in 
___ and was beginning to have some gait difficulties 
then. On examination in the ED on ___ patient was found to 
have left IP, left hamstring and possible subtle left TA 
weakness; was able to stand but had difficulty with hip and knee 
flexion and ankle dorsiflexion so would walk with knee extended 
and sort of shuffling his left LLE, with a limp. At that time, 
the entirety of patient prior imaging history (and prior C spine 
MRI in ___ at ___ was unknown. He had an MRI entire spine 
without contrast with the thought that he may have spine 
degenerative changes and weakness may be due to disc and 
degenerative disease. MRI spine without contrast initial read 
was read as moderate to severe degenerative changes with 
multi-level disc disease and foraminal narrowing. Patient was 
discharged with plan for spine clinic evaluation and neurology 
urgent care. 

Final MRI spine read ___ was read as degenerative changes 
but also with some multi-level short-segment cord signal 
abnormalities concerning for demyelination (C3-C4, T2-T3 and 
T3-T4). As such, patient was referred back to the ___ ED for 
MRI spine with contrast. 

He reports that since ___, there have been no significant 
changes and no new symptoms. No new falls, no worsening weakness 
over the last day. 

 
Past Medical History:
DMII diagnosed per patient about one month ago
HTN
HLD
Severe osteoarthritis s/p bilateral hip replacements (left more
than ___ years ago, right in ___, shoulder and hand and back
pain/cracking
Trigeminal neuralgia

 
Social History:
___
Family History:
Mother with rheumatoid and osteoarthritis. 
 
Physical Exam:
***ADMISSION EXAM***
Vitals: T: 98.5 HR: 79 BP: 153/73 RR: 20 SaO2: 98% RA 
General: NAD  
HEENT: NCAT, no oropharyngeal lesions, neck supple  
___: RRR, no M/R/G  
Pulmonary: CTAB, no crackles or wheezes  
Abdomen: Soft, NT, ND, +BS, no guarding  
Extremities: Warm, no edema  

Neurologic Examination:  
MS: Awake, alert, oriented x 3. Able to relate history without 
difficulty. Attentive, able to name ___ backward without 
difficulty. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Naming intact. No 
paraphasias. No dysarthria. Normal prosody. No apraxia. No 
evidence of hemineglect. No left-right confusion. Able to follow 
both midline and appendicular commands. 
Cranial Nerves - PERRL 3->2 brisk. VF full to number counting. 
EOMI, no nystagmus. V1-V3 without deficits to light touch 
bilaterally. No facial movement asymmetry. Hearing intact to 
finger rub bilaterally. Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline.  
Motor - Normal bulk and tone. No drift. No tremor or asterixis.
Left IP has significant difficulty raising off of the bed; at 
one point patient with less than full effort as determine by + 
Hoover but when full effort is 4+/5- 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     4+   5     4+    5-    5    
 R   5     5     5     5     5    5     5     5     5    
Sensory - No deficits to light touch or temperature bilaterally. 
No extinction to DSS. 

DTRs:  absent in bilateral biceps, brachioradialis, quadriceps, 
and gastrocs; Plantar response flexor bilaterally.  

Coordination - No dysmetria with finger to nose testing 
bilaterally or with right HKS; has difficulty with left HKS 
given weakness. 
Gait - Able to stand with help from arms pushing off to stand; 
able to maintain standing position and support weight. Walks 
with a limp keeping left knee extended and shuffling foot a bit 
along the floor given difficulty with hip and knee flexion.

***DISCHARGE EXAM***
Neurologic: 
-MS: alert, oriented, attentive. language fluent. follows 
commands. 
-CN: pupils 4->3 b/l, EOMI, no nystagmus. face symmetric. palate 
elevates symmetrically. tongue midline. 
-Motor
   [Delt] [Bic] [Tri] [ECR] [FEx] [IP] [Quad] [Ham] [TA] [Gas]
 L   5      5     5     5     5    3     4+     3    2     3
 R   5      5     5     5     5    5     5      5    5     5
-Sensory: intact to LT
-Reflexes: trace in arms. in legs, left patellar reflex 0, vs 2 
on right. toes mute bilaterally
-Coordination: FTN intact, deferred HTS given left leg weakness
-Gait: narrow based, good initiation, steppage gait on left leg
 
Pertinent Results:
___ 11:25PM   ___ PTT-30.3 ___
___ 11:25PM   GLUCOSE-93 UREA N-9 CREAT-0.7 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-21* ANION GAP-20

MRI head ___
IMPRESSION:
1. Innumerable white matter lesions in bilateral cerebral 
hemispheres, pons,
and medulla are overall unchanged in number and distribution as 
compared to
prior examination.  There is no associated slow diffusion or 
enhancement.
2. Please refer to recent cervical spine MRI dated ___ for full
description of spinal cord lesion.

MRI c/t-spine ___
IMPRESSION:
1. Corresponding enhancement of the T2-T3 spinal cord lesion, 
suggestive of
acute demyelinating lesion.
2. Additional C3-C4 and T3-T4 spinal cord lesions seen on the 
prior study do
not demonstrate corresponding enhancement.
3. Please refer to dedicated spine MRI dated ___ for 
additional
details, including multilevel degenerative changes.

MRI c/t-spine ___
IMPRESSION:
1. Multiple short-segment spinal cord lesions at C3-C4, T2-T3 
and T3-T4
levels.  Findings are suggestive of demyelinating process.  If 
clinically
concerned for an acute demyelinating process, a follow up 
contrast-enhanced
study could be obtained.
2. No evidence of cord compression.
3. Multilevel degenerative changes of the spine, with moderate 
lumbar spinal
canal stenosis and multilevel neural foraminal stenosis, as 
detailed above.

 
Brief Hospital Course:
Patient came in to the ___ ED on ___ with what was 
initially documented as "several weeks of LLE weakness" but upon 
further clarification with the patient, was actually only 2 days 
of left leg weakness, possibly worsening recently with a fall on 
___. On examination in the ED on ___ patient was 
found to have left IP, left hamstring and possible subtle left 
TA weakness; was able to stand but had difficulty with hip and 
knee flexion and ankle dorsiflexion. At that time, the entirety 
of patient prior imaging history (and prior C spine MRI in ___ 
at ___ was unknown. He had an MRI entire spine without 
contrast with the thought that he may have spine degenerative 
changes and weakness may be due to disc and degenerative 
disease. MRI spine without contrast initial read was read as 
moderate to severe degenerative changes with multi-level disc 
disease and foraminal narrowing. Patient was discharged with 
plan for spine clinic evaluation and neurology urgent care. 

Final MRI spine read ___ was read as degenerative changes 
but also with some multi-level short-segment cord signal 
abnormalities concerning for demyelination (C3-C4, T2-T3 and 
T3-T4). As such, patient was referred back to the ___ ED for 
MRI spine with contrast. 

On evaluation by the inpatient neurology service, the patient 
also reported 1 month of worsening of the trigeminal neuralgia 
symptoms and urinary urgency following the time course of the 
LLE weakness. On review with neuroradiology of his previous ___ MRI and comparison to the MRI obtained on ___, there 
was radiographic evidence of dissemination across time and space 
of the lesions concerning for demyelination. As a result, IV 
steroid therapy was started and repeat MRI head was ordered 
which showed Innumerable white matter lesions in bilateral 
cerebral hemispheres, pons, and medulla overall unchanged in 
number and distribution as compared to prior. The findings were 
most consistent with MS, and therefore an LP was deferred. 
Methylprednisolone led to improvement of his strength especially 
in his left distal leg.

Transitional Issues
#Neurology
[ ] Patient discharged on prednisone taper
[ ] Follow up in ___ clinic

#PCP
[ ] Routine follow up for type II diabetes.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OXcarbazepine 1200 mg PO BID 
2. Gabapentin 1200 mg PO TID 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. amLODIPine 5 mg PO DAILY 
5. Atorvastatin 20 mg PO QPM 
6. Losartan Potassium 100 mg PO DAILY 
7. Naproxen 500 mg PO BID PRN 
8. OXcarbazepine 1200 mg PO TID 

 
Discharge Medications:
1.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*5 
2.  PredniSONE 60 mg PO DAILY Duration: 2 Doses 
This is dose # 1 of 5 tapered doses
RX *prednisone 20 mg 3 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0 
3.  PredniSONE 40 mg PO DAILY Duration: 3 Doses 
This is dose # 2 of 5 tapered doses
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0 
4.  PredniSONE 20 mg PO DAILY Duration: 3 Doses 
Start: After 40 mg DAILY tapered dose 
This is dose # 3 of 5 tapered doses
RX *prednisone 20 mg 1 tablet(s) by mouth daily Disp #*3 Tablet 
Refills:*0 
5.  PredniSONE 10 mg PO DAILY Duration: 3 Doses 
This is dose # 4 of 5 tapered doses
RX *prednisone 10 mg 1 tablet(s) by mouth daily Disp #*3 Tablet 
Refills:*0 
6.  PredniSONE 5 mg PO DAILY Duration: 5 Doses 
This is dose # 5 of 5 tapered doses
RX *prednisone 5 mg 1 tablet(s) by mouth daily Disp #*5 Tablet 
Refills:*0 
7.  amLODIPine 5 mg PO DAILY  
8.  Atorvastatin 20 mg PO QPM  
9.  Gabapentin 1200 mg PO TID  
10.  Losartan Potassium 100 mg PO DAILY  
11.  MetFORMIN (Glucophage) 500 mg PO BID  
12.  Naproxen 500 mg PO BID PRN  
13.  OXcarbazepine 1200 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Multiple Scelerosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for leg weakness. You underwent  
imaging of your head which showed lesions that were most 
consistent with MS; therefore, we believe your symptoms are due 
to multiple sclerosis. 
We treated you with intravenous steroids.

Your medications were adjusted as follows:
START prednisone (and taper):
60 mg daily for 2 days
40 mg daily for 3 days
20 mg daily for 3 days
10 mg daily for 3 days
 5 mg daily for 5 days
Then stop prednisone 

Please take your medications as instructed.
You have follow up scheduled as mentioned below. 

It was a pleasure taking care of you.  

Best, 
Your ___ team. 
 
Followup Instructions:
___